US06403792B1
64d) (S)-(+)-2-phenethylpyrrolidine
To a solution of (S)-(+)-N-Boc-2-phenethylpyrrolidine (0.53 g, 1.93 mmol) in 5 mL of CH2Cl2 at 0° C. was added 5 mL of TFA. The solution was warmed to room temperature and stirred for 3 hours. The organic layer was concentrated under reduced pressure and redissolved in CH2Cl2. The organic layer was washed with 1 M NaOH, dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound as a light yellow oil (0.31 g, 91%). ES (+) MS m/e=176 (M+H).

reactant | (S)-(+)-N-Boc-2-phenethylpyrrolidine | 1.93 mmol, 0.53 g | C(=O)(OC(C)(C)C)N1[C@H](CCC1)CCC1=CC=CC=C1 | C17H25NO2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-(+)-2-phenethylpyrrolidine | 0.31 g, 91% | C(CC1=CC=CC=C1)[C@@H]1NCCC1 | C12H17N
